US08217028B2
1,1-Dimethylethyl (triphenyl-λ5-phosphanylidene)acetate (1.540 g) was added to a suspension of 3-formyl-1H-indole-6-carbonitrile (D13) (604 mg) in acetonitrile (20 mL) at RT. The reaction mixture was heated to refluxing and stirred for 3.5 hours. Another portion of 1,1-dimethylethyl (triphenyl-λ5-phosphanylidene)acetate (1 g) was added and the resulting suspension was refluxed for 3 more hours. Another portion of 1,1-dimethylethyl (triphenyl-λ5-phosphanylidene)acetate (1 g) was added and the resulting suspension was refluxed for 2.5 more hours. Another portion of 1,1-dimethylethyl (triphenyl-λ5-phosphanylidene)acetate (1 g) was added and the resulting suspension was refluxed for 3 more hours. Another portion of 1,1-dimethylethyl (triphenyl-λ5-phosphanylidene)acetate (1.5 g) was added and the resulting suspension was refluxed for 3.5 more hours. The solvent was evaporated. The residue was purified by Biotage (33% EtOAc in hexane) to afford 1,1-dimethylethyl (2E)-3-(6-cyano-1H-indol-3-yl)-2-propenoate (D14) as a white solid (556 mg). MS (ES): C16H16N2O2 requires 268; found 267.0 (M−H+).

reactant | 1,1-Dimethylethyl (triphenyl-λ5-phosphanylidene)acetate | 1.540 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)(C1=CC=CC=C1)=CC(=O)OC(C)(C)C | C24H25O2P
reactant | 3-formyl-1H-indole-6-carbonitrile | 604 mg | C(=O)C1=CNC2=CC(=CC=C12)C#N | C10H6N2O
reactant | 1,1-dimethylethyl (triphenyl-λ5-phosphanylidene)acetate | 1 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)(C1=CC=CC=C1)=CC(=O)OC(C)(C)C | C24H25O2P
reactant | 1,1-dimethylethyl (triphenyl-λ5-phosphanylidene)acetate | 1 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)(C1=CC=CC=C1)=CC(=O)OC(C)(C)C | C24H25O2P
reactant | 1,1-dimethylethyl (triphenyl-λ5-phosphanylidene)acetate | 1 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)(C1=CC=CC=C1)=CC(=O)OC(C)(C)C | C24H25O2P
reactant | 1,1-dimethylethyl (triphenyl-λ5-phosphanylidene)acetate | 1.5 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)(C1=CC=CC=C1)=CC(=O)OC(C)(C)C | C24H25O2P
solvent | acetonitrile | 20 mL | C(C)#N | C2H3N
product | 1,1-dimethylethyl (2E)-3-(6-cyano-1H-indol-3-yl)-2-propenoate | 556 mg | C(#N)C1=CC=C2C(=CNC2=C1)/C=C/C(=O)OC(C)(C)C | C16H16N2O2
